US08008350B2
i) 4-bromophenyl 4-fluorophenyl sulfone
The subtitle compound was prepared by the method of example 2 step (i) using 4-fluorobenzenesulfonyl chloride and bromobenzene.

reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 4-bromophenyl 4-fluorophenyl sulfone | FC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)Br | C12H8BrFO2S
